US08258160B2
Synthesis of 2-(1-(4-fluorobenzyl)-1H-1,2,3-triazol-4-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 4, making variations as necessary to replace 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid with 2-(1-(4-fluorobenzyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a white solid in 64% yield: mp 212-213° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.54 (br s, 1H), 8.46 (br s, 1H), 7.95 (s, 1H), 7.72-7.69 (m, 1H), 7.34-7.18 (m, 3H), 7.09-6.97 (m, 2H), 6.85 (t, J=5.6 Hz, 1H), 5.49 (s, 2H), 4.58 (d, J=5.6 Hz, 2H), 2.64 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 163.1, 161.9, 157.9, 157.2, 149.2, 148.9, 142.9, 135.8, 133.9, 130.3, 129.6, 129.5, 124.1, 121.5, 116.4, 53.9, 41.6, 17.3; MS (ES+) m/z 409.3 (M+1).

reactant | 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1N=NC(=C1)C=1SC(=C(N1)C)C(=O)O | C14H12N4O2S
reactant | 2-(1-(4-fluorobenzyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=NC(=C2)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O2S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(1-(4-fluorobenzyl)-1H-1,2,3-triazol-4-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 64% yield | FC1=CC=C(CN2N=NC(=C2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)C=C1 | C20H17FN6OS
